.title KiCad schematic
.ac dec 200 10 10k
R2 /u_vc /u_d 200m
G1 /u_vc GND /p_i GND 6m
C2 /u_d GND 5m
L2 /u_vc /u_d 3u
L3 /u_d GND 2.7m
G3 /u_d GND /p_o GND 21m
R3 /u_d GND 4.545
L1 /u_vc GND 1.3m
R1 /u_vc GND 2
I1 GND /u_vc DC 0 AC 1  
C1 /u_vc GND 6m
G2 GND /p_i /u_vc GND 6m
R5 Net-_C3-Pad1_ GND 59.67k
L4 /p_i GND 14.59
R4 /p_i Net-_C3-Pad1_ 135.3k
C3 Net-_C3-Pad1_ GND 1.775n
G4 GND /p_o /u_d GND 21m
R7 Net-_C4-Pad1_ GND 17.05k
C4 Net-_C4-Pad1_ GND 11.62n
L5 /p_o GND 7.799
R6 /p_o Net-_C4-Pad1_ 38.66k
.end
