.title KiCad schematic
.ac dec 200 10 10k
I1 GND /u_vc DC 0 AC 1  
C1 /u_vc GND 6m
R2 /u_vc /u_d 200u
C2 /u_d GND 5m
L2 /u_vc /u_d 100p
L3 /u_d GND 2.7m
R1 /u_vc GND 2
L1 /u_vc GND 1.3m
R3 /u_d GND 4.545
.end
