.title KiCad schematic
.ac dec 2000 10 1000
R0 /p_in GND 1T
C6 /p6 GND 303.728p
Vs7 /p6 Net-_R7-Pad1_ DC 0 
R7 Net-_R7-Pad1_ Net-_L7-Pad1_ 25000
L7 Net-_L7-Pad1_ /p_out 3640.88
L9 /p_out GND 115.179
R9 /p_out Net-_C9-Pad1_ 32.3021Meg
R5 Net-_R5-Pad1_ Net-_L5-Pad1_ 25000
Vs5 /p4 Net-_R5-Pad1_ DC 0 
L5 Net-_L5-Pad1_ /p6 9390.14
R8 Net-_C9-Pad1_ GND 16.2964Meg
C9 Net-_C9-Pad1_ GND 310.995f
C2 /p2 GND 112.492p
Vs3 /p2 Net-_R3-Pad1_ DC 0 
C4 /p4 GND 719.948p
L3 Net-_L3-Pad1_ /p4 7512.11
R1 Net-_R1-Pad1_ Net-_L1-Pad1_ 25000
L1 Net-_L1-Pad1_ /p2 2347.54
I1 /p_in GND DC 0 AC 1  
Vs1 /p_in Net-_R1-Pad1_ DC 0 
R3 Net-_R3-Pad1_ Net-_L3-Pad1_ 25000
.end
